US08859566B2
A mixture of 6-Oxo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6,7-dihydro-1H-purine-2-carbonitrile (40 mg, 0.0934 mmol), NaOH (6 mg, 0.140 mmol) and Ethanol:water (3:1) (2 ml) were stirred at 50° C. for 18 hours. Reaction mixture was cooled and organic volatiles were evaporated and the residue obtained was dissolved in DCM (10 ml) and washed with brine (10 ml). Organic layer was dried over Na2SO4 and evaporated to obtain pure 6-Oxo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6,7-dihydro-1H-purine-2-carboxylic acid amide (32 mg, 78%) as an off white solid.

reactant | 6-Oxo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6,7-dihydro-1H-purine-2-carbonitrile | 0.0934 mmol, 40 mg | O=C1C=2NC(=NC2N=C(N1CCC)C#N)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F | C20H16F3N7O
reactant | NaOH | 0.140 mmol, 6 mg | [OH-].[Na+]
reactant | Ethanol water | 2 ml | C(C)O.O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-Oxo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6,7-dihydro-1H-purine-2-carboxylic acid amide | 32 mg, 78% | O=C1C=2NC(=NC2N=C(N1CCC)C(=O)N)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F | C20H18F3N7O2
